US07834063B2
B. 4-[(2,2-Dimethylpropyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile
Synthesized as described in Example 1B from 4-[(2,2-dimethylpropyl)amino]-2-(trifluoromethyl)benzonitrile and [(3-bromopropyl)oxy](1,1-dimethylethyl)dimethylsilane: 1H NMR (300 MHz, CDCl3) δ 7.53 (d, J=8.9 Hz, 1H), 7.05 (d, J=2.5 Hz, 1H), 6.87 (dd, J=8.9, 2.5 Hz, 1H), 3.70 (app. bq, J=4.7 Hz, 2H), 3.62 (app. t, J=7.3 Hz, 2H), 3.27 (s, 2H), 1.87-1.75 (m, 2H), 1.47 (bt, J=4.2 Hz, 1H), 0.99 (s, 9H).

reactant | 4-[(2,2-dimethylpropyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CNC1=CC(=C(C#N)C=C1)C(F)(F)F)(C)C | C13H15F3N2
reactant | [(3-bromopropyl)oxy](1,1-dimethylethyl)dimethylsilane | BrCCCO[Si](C)(C)C(C)(C)C | C9H21BrOSi
product | 4-[(2,2-Dimethylpropyl)(3-hydroxypropyl)amino]-2-(trifluoromethyl)benzonitrile | CC(CN(C1=CC(=C(C#N)C=C1)C(F)(F)F)CCCO)(C)C | C16H21F3N2O
